Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Chest pain
 
Major Surgical or Invasive Procedure:
___ Coronary Angiography (no CAD)

 
History of Present Illness:
Mr ___ is a ___ year old man with a history of hypertension, 
hyperlipidemia and carotid stenosis, who presents to ___ after 
referral from his primary care physician after ___ positive 
nuclear stress test suggesting anterior wall ischemia performed 
two days prior. Patient endorses intermittent substernal chest 
"pressure" over the last month, with episodes lasting ___ 
minutes in length. Episodes occur almost daily. Not associated 
with exertion, not relieved by rest. Able to climb stairs at 
work without any pain. Not associated with nausea, diaphoresis, 
dyspnea. Pain does not radiate anywhere. He has not taken 
anything for the pain. The pain prompted his PCP to obtain ___ 
stress test, for which he is now referred to ___.

Denies any personal or family cardiac history.

Attempts made in the ED to obtain stress report from PCP were 
unsuccessful. 

In the ED:  
Initial VS:  
Temp 98.0 | HR 79 | BP 132/111 | RR 17 | SpO2 99% RA 

Exam:  
Generally unremarkable

EKG:  
NSR, normal axis, isolated T wave flattening in III, no STE or 
STD

Labs notable for:  
Trop <0.01 x2
BNP with HCO3 of 19 and AG of 19

Studies notable for:  
Normal CXR

Consults:  
Cardiology was consulted who recommended treatment for ACS 
without heparin gtt given negative troponin, and admission to 
___ service.

Patient was given:  
Atorvastatin 80mg
Aspirin 324mg
Metoprolol tartrate 6.25mg

Vitals on transfer:  
Temp 97.8 | HR 68 | BP 166/82 | RR 16 | SpO2 98% RA 

On the floor patient reports he is feeling well. Endorses still 
some very mild chest pressure.

REVIEW OF SYSTEMS:  
Positive per HPI, otherwise negative.
 
Past Medical History:
- Hypertension  
- Dyslipidemia  
- Carotid stenosis
 
Social History:
___
Family History:
No family history of early MI, arrhythmia, cardiomyopathies, or 
sudden cardiac death.  
 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION:  
=======================  
VS: Temp: 97.7 PO BP: 177/70 R Lying HR: 69 RR: 17 O2 sat: 97% 
O2 delivery: Ra 
GENERAL: Lying comfortably in bed, in no acute distress.
HEENT: Sclera anicteric. Pink conjunctiva.
NECK: Faint right-sided carotid bruit.
CARDIAC: Normal rate and rhythm. Normal S1, S2. No murmurs, 
rubs, or gallops.
LUNGS: Clear to auscultation bilaterally without wheezes, 
rhonchi, or rales. No increased work of breathing.
ABDOMEN: Soft, non-tender, non-distended.
EXTREMITIES: Warm, well perfused. No clubbing, cyanosis, or 
peripheral edema.

DISCHARGE PHYSICAL EXAMINATION:  
=======================  
T 98.0, BP 122/65, HR 59, RR 18, O2 98 RA
GENERAL: Lying comfortably in bed, in no acute distress.
HEENT: Sclera anicteric. Pink conjunctiva.
NECK: Faint right-sided carotid bruit.
CARDIAC: Normal rate and rhythm. Normal S1, S2. No murmurs, 
rubs, or gallops.
LUNGS: Clear to auscultation bilaterally without wheezes, 
rhonchi, or rales. No increased work of breathing.
ABDOMEN: Soft, non-tender, non-distended.
EXTREMITIES: Warm, well perfused. No clubbing, cyanosis, or 
peripheral edema. Radial access site with strong pulse. 
 
Pertinent Results:
============================
ADMISSION LABORATORY STUDIES
============================
___ 04:31PM BLOOD Glucose-108* UreaN-17 Creat-1.2 Na-140 
K-4.5 Cl-102 HCO3-19* AnGap-19*
___ 04:31PM BLOOD WBC-7.5 RBC-4.21* Hgb-13.3* Hct-40.5 
MCV-96 MCH-31.6 MCHC-32.8 RDW-12.4 RDWSD-43.8 Plt ___

==========================================
DISCHARGE AND PERTINENT LABORATORY STUDIES
==========================================
___ 04:31PM BLOOD cTropnT-<0.01
___ 07:50PM BLOOD cTropnT-<0.01

===========================
REPORTS AND IMAGING STUDIES
===========================
___ Coronary Angiography 
The coronary circulation is right dominant.
LM: The Left Main, arising from the left cusp, is a medium 
caliber vessel. This vessel bifurcates into the Left Anterior 
Descending and Left Circumflex systems.
LAD: The Left Anterior Descending artery, which arises from the 
LM, is a medium caliber vessel. There are mild irregularities in 
the proximal segment. The Diagonal, arising from the proximal 
segment, is a medium caliber vessel.
Cx: The Circumflex artery, which arises from the LM, is a large 
caliber vessel. The ___ Obtuse Marginal, arising from the 
proximal segment, is a medium caliber vessel. The ___ Obtuse 
Marginal, arising from the mid segment, is a medium caliber 
vessel.
RCA: The Right Coronary Artery, arising from the right cusp, is 
a large caliber vessel. The Right Posterior Descending Artery, 
arising from the distal segment, is a medium caliber vessel. The 
Right Posterolateral Artery, arising from the distal segment, is 
a medium caliber vessel.

============
MICROBIOLOGY
============
None
 
Brief Hospital Course:
=================
SUMMARY STATEMENT
=================
Mr. ___ is a ___ year old man with hypertension, 
hyperlipidemia and carotid stenosis who presents with chest pain 
and an outpatient nuclear stress test with ischemia in the LAD 
territory. He had a coronary angiography that showed no 
significant CAD. 

===================
TRANSITIONAL ISSUES
===================
- New Meds: None
- Stopped/Held Meds: None

[ ] Should have ongoing evaluation for atypical chest pain. He 
reports a history of GERD and this could be contributing to his 
symptoms. 

====================
ACUTE MEDICAL ISSUES
====================
#Atypical chest pain
#CAD with positive nuclear stress test
Endorses about a month of non-exertional chest pressure that 
occurred on almost a daily basis. This was non-radiating and not 
associated with other symptoms. His physical activity was not at 
all limited. His PCP ordered an stress nuclear perfusion test 
that reportedly showed abnormality in LAD territory. He was 
therefore admitted for further evaluation. Troponin was negative 
x2. There were no ischemic ECG changes. A coronary angiography 
showed no angiographically apparent coronary artery disease. His 
chest pressure was therefore presumed to be non-cardiac. 

#Gap metabolic acidosis
Found to have very mild gap metabolic acidosis on admission with 
no obvious etiology. Resolved spontaneously by morning lab draw. 


Discharge time 20 min
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Lisinopril 20 mg PO DAILY 
3. Simvastatin 40 mg PO QPM 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY  
2.  Lisinopril 20 mg PO DAILY  
3.  Simvastatin 40 mg PO QPM  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Atypical chest pain

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

It was a pleasure caring for you while you were admitted to ___ 
___ ___ ___. 

WHY WERE YOU ADMITTED TO THE HOSPITAL?
You were having chest pain and the stress test your primary care 
doctor ordered looked abnormal. 

WHAT HAPPENED WHILE YOU WERE IN THE HOSPITAL?
We examined the arteries in the heart (coronary angiography) and 
found there were no blockages. 

WHAT SHOULD YOU DO WHEN YOU GO HOME?
- See your primary care doctor to discuss what may have been 
causing your chest pain. 

Sincerely, 
Your ___ Care Team 
 
Followup Instructions:
___